US05023272
A mixture of 56 g. (0.25 mole) of 5-(p-chlorophenyl)-2-furoic acid and 100 ml. of SOCl2 is refluxed for 31/2 hours so that HCl gas evolves and there is dissolution. The SOCl2 is removed on a rotary evaporator. Benzene is added to the solid residue and is then removed on the rotary evaporator to give 5-(p-chlorophenyl)-2-furoyl chloride.

reactant | 5-(p-chlorophenyl)-2-furoic acid | 0.25 mole | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
product | 5-(p-chlorophenyl)-2-furoyl chloride | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)Cl | C11H6Cl2O2
